US04616014
A solution of dimethyl N-cyanodithioimidocarbonate (2.65 g) in methylene chloride (15 ml) was added to a solution of 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine (3.52 g) in methanol (20 ml) and stirring was continued for 40 hours at room temperature. The resultant precipitates were collected by filtration, washed with methanol, and dried to give 3-(5-amino-3-methylthio-1,2,4-triazol-1-yl)-5-methyl-6-phenyl-1,2,4-triazine (4.67 g).

reactant | dimethyl N-cyanodithioimidocarbonate | 2.65 g | C(#N)N=C(SC)SC | C4H6N2S2
reactant | 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine | 3.52 g | N(N)C=1N=NC(=C(N1)C)C1=CC=CC=C1 | C10H11N5
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 3-(5-amino-3-methylthio-1,2,4-triazol-1-yl)-5-methyl-6-phenyl-1,2,4-triazine | 4.67 g | NC1=NC(=NN1C=1N=NC(=C(N1)C)C1=CC=CC=C1)SC | C13H13N7S
